2153-03-15 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Phenylephrine changed to dopamine.
   NGT output 200 cc heme positive dark bilious fluid.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 4 mcg/Kg/min
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-3-15**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-15**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 89 (75 - 102) bpm
   BP: 116/47(79) {74/27(44) - 130/4,751(90)} mmHg
   RR: 15 (0 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 13 (-4 - 13)mmHg
   PAP: (64 mmHg) / (29 mmHg)
   CO/CI (Fick): (9.3 L/min) / (4.2 L/min/m2)
   SvO2: 66%
   Mixed Venous O2% Sat: 65 - 74
   Total In:
                                                                  1,047 mL
                                                                    477 mL
   PO:
   TF:
   IVF:
                                                                  1,047 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                    350 mL
   Urine:
                                                                    655 mL
                                                                    350 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    192 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 19 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.43/40/89.[**Numeric Identifier 126**]/25/1
   Ve: 8.4 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General: Intubated, responsive to voice, follows commands
   Neck: JVP at angle of mandible (~10cm)
   Cardiovascular: RRR, murmurs audible from IABP inflation/deflation
   Respiratory / Chest: BS coarse, no rales.
   Abd: NABS. S/NT/BD.
   Extremities: WWP. 2+ RLE pulse, 1+ LLE pulse.
   Skin: Incision on R hip with minimal sangiunous drainage.
   Neuro: moving all ext, following commands
   Labs / Radiology
   109 K/uL
   9.7 g/dL
   130 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   35 mg/dL
   106 mEq/L
   135 mEq/L
   27.9 %
   20.2 K/uL
        [image002.jpg]
                             [**2153-3-14**]  12:14 PM
                             [**2153-3-14**]  12:51 PM
                             [**2153-3-14**]  03:44 PM
                             [**2153-3-14**]  04:57 PM
                             [**2153-3-14**]  05:28 PM
                             [**2153-3-14**]  07:42 PM
                             [**2153-3-14**]  09:21 PM
                             [**2153-3-15**]  12:50 AM
                             [**2153-3-15**]  04:02 AM
                             [**2153-3-15**]  04:13 AM
   WBC
   14.4
   19.6
   20.2
   Hct
   30
   33
   29.0
   33
   31.2
   27.9
   Plt
   109
   104
   109
   Cr
   1.1
   0.8
   TropT
   7.61
   TCO2
   25
   21
   17
   26
   28
   27
   Glucose
   165
   269
   130
   Other labs: PT / PTT / INR:30.1/71.4/3.1, CK / CKMB /
   Troponin-T:2282/144/7.61, ALT / AST:55/374, Alk Phos / T Bili:35/0.8,
   Differential-Neuts:84.7 %, Lymph:10.6 %, Mono:4.4 %, Eos:0.2 %,
   D-dimer:2446 ng/mL, Fibrinogen:422 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.6 g/dL, LDH:1138 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   Patient is an 86 y/o male with HTN/Dyslipidema h/o rutured AAA in 02
   who developed post-operative MI with CK 1516 (rising) with likely
   culprit of LCx given precordial/lateral ECG changes and angiographic
   findings. He has significant MR (new/severe) that is likely ischemic in
   nature, resulting in significant heart failure requiring mechanical
   ventilation, IABP, and vasopressor support.
   #. CAD/NSTEMI:
    - s/p revascularization with Cypher (DES) stents to LCx
    - On Bivalrudin peri-procedure now on heparin gtt
    - Continue plavix
    - Continue statin
    - Trend CKs
 peak 2964 MB 220
   #. ACUTE SYSTOLIC CHF/Acute MR
    - Likely related to ischemic MR plus inferior/inferiolateral wall
   motion abnormalities. Possible pap muscle ischemia.
    - IABP inserted to help with afterload reduction to improve MR, and
   also to increase coronary perfusion pressure through new
      stents.
    - s/p Anticoagluation with Bivalrudin through 2h after plavix load,
   now on heparin gtt
    - To obtain pre-op echo if available to outpatient cardiologist/PCP
   [**Name Initial (PRE) **] Wean dopamine as tolerated.
    - received IV furosemide yest
 will allow to autodiurese today
    - Wean peep to decrease afterload.
   # Thrombocytopenia
 low likelihood for HIT based on timing and current
   stability of plt count, no evidence of thrombosis
   - continue to follow
   .
   # AORTIC STENOSIS
    - Gradient by echo was mean of 20, echo suggested significant AS
   #. ATRIAL FIBRILLATION
    - Presently in sinus
    - Discontinue amio for now
    - Anticoagulation at present with heparin going forward for now
   # RESPIRATORY FAILURE [**2-12**] CHF
    - Mechanical ventilation with volume control for now
   #. s/p Total Hip
    - Consider orthopaedics to follow while in house
    - Have emailed his orthopod.
   #. Anemia
    - Will check full CBC on CCU admission now
    - Consider full anemia work-up
   #. PPX: Lansoprazole daily
           Bowel regimen
   #. FEN : NPO for now, lyte repletion as needed.
   #. Access: Fem PA
   #. Code: Full
   #. Dispo: CCU for now
   Family:
   Close Friend [**Name (NI) **] [**Name (NI) 419**] [**Telephone/Fax (1) 6093**]
   Nephew [**Name (NI) 4546**] [**Name (NI) 6094**] [**Telephone/Fax (1) 6095**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2153-3-14**] 02:00 PM
   PA Catheter - [**2153-3-14**] 02:21 PM
   20 Gauge - [**2153-3-14**] 04:24 PM
   22 Gauge - [**2153-3-14**] 04:26 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute systolic and diastolic heart failure, acute
   mitral regurgitation, inferior non-ST elevation myocardial infarction.
   Total time spent on patient care: 35 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2153-3-16**] 09:42 ------
   Date of service was 3.5.9
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2153-3-17**] 08:27 ------

2153-03-16 05:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -slow to wean off dopamine, put on 2mg
   -trial of 1:2 on balloon pump
   -transfused 1 unit PRBC this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 20 mcg/hour
   Heparin Sodium - 700 units/hour
   Dopamine - 2 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2153-3-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-16**] 05:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 85 (81 - 99) bpm
   BP: 85/44(62) {81/35(62) - 116/58(79)} mmHg
   RR: 15 (14 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 11 (8 - 15)mmHg
   PAP: (46 mmHg) / (22 mmHg)
   CO/CI (Fick): (6.7 L/min) / (3 L/min/m2)
   Mixed Venous O2% Sat: 63 - 67
                                Total In:
                                                                  1,302 mL
                                                                    293 mL
   PO:
                                TF:
   IVF:
                                                                  1,152 mL
                                                                    207 mL
   Blood products:
   86 mL
   Total out:
                                                                  1,015 mL
                                                                    155 mL
   Urine:
                                                                    915 mL
                                                                    155 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    287 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 522 (522 - 522) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 52.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/38/129/25/3
   Ve: 8.4 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Gen: Intubated, sedated, moving LLE, following some commands, opening
   eyes
   HEENT: Pupils pinpoint, sluggishly reactive
   CV: RRR, 3/6 systolic murmur radiating to apex
   Resp: Coarse BS anteriorly
   Abd: Soft. ND.Obese.  No obvious tenderness
   Ext: L groin balloon bump and swan in place. No obvious hematoma
   DP/PT trace to 1+ BL. R>L. 1+ edema BL
   Labs / Radiology
   114 K/uL
   8.3 g/dL
   119 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   43 mg/dL
   109 mEq/L
   138 mEq/L
   23.7 %
   17.6 K/uL
        [image002.jpg] Prev WBC 19.4 prev HCT 25.3<-27.9<-31
   LDH:911 Bili:0.8  FS:140 Hapto: P
   HCT 36 [**3-12**] 26 [**3-13**] 30
   Peak trop 7.6 here CKMB 270 CK 2964
                             [**2153-3-14**]  04:57 PM
                             [**2153-3-14**]  05:28 PM
                             [**2153-3-14**]  07:42 PM
                             [**2153-3-14**]  09:21 PM
                             [**2153-3-15**]  12:50 AM
                             [**2153-3-15**]  04:02 AM
                             [**2153-3-15**]  04:13 AM
                             [**2153-3-15**]  04:18 PM
                             [**2153-3-16**]  02:17 AM
                             [**2153-3-16**]  02:47 AM
   WBC
   19.6
   20.2
   19.4
   17.6
   Hct
   33
   31.2
   27.9
   25.3
   23.7
   Plt
   104
   109
   121
   114
   Cr
   0.8
   0.8
   TCO2
   17
   26
   28
   27
   27
   Glucose
   130
   119
   Other labs: PT / PTT / INR:17.4/71.7/1.6, CK / CKMB /
   Troponin-T:2282/144/7.61, ALT / AST:55/374, Alk Phos / T Bili:35/0.8,
   Differential-Neuts:84.7 %, Lymph:10.6 %, Mono:4.4 %, Eos:0.2 %,
   D-dimer:2446 ng/mL, Fibrinogen:422 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.6 g/dL, LDH:1138 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.4 mg/dL
   Patient is an 86 y/o male with HTN/Dyslipidema h/o rutured AAA in 02
   who developed post-operative MI with CK 1516 (rising) with likely
   culprit of LCx given precordial/lateral ECG changes and angiographic
   findings. He has significant MR (new/severe) that is likely ischemic in
   nature, resulting in significant heart failure requiring mechanical
   ventilation, IABP now weaned off pressor support
   .
   #. CAD/NSTEMI:  s/p revascularization with Cypher (DES) stents x 2 to
   LCx
    - On Bivalrudin peri-procedure now on heparin gtt
    - Continue [**Last Name (LF) **], [**First Name3 (LF) **]; no BB or ACE since hypotensive on pressors
    - Continue statin
   - Trended CKs
 peak 2964 MB 220 on admission
   .
   #. ACUTE SYSTOLIC CHF/Acute MR: Likely related to ischemic MR plus
   inferior/inferiolateral wall  motion abnormalities. Possible pap muscle
   ischemia. IABP inserted to help with afterload reduction to improve MR,
   and  also to increase coronary perfusion pressure through new  stents.
   s/p Anticoagluation with Bivalrudin through 2h after [**First Name3 (LF) **] load, now
   on heparin gtt
    - To obtain pre-op echo if available to outpatient cardiologist/PCP
   [**Name Initial (PRE) **]  Dopamine Weaned overnight with MAP>55.
   -  Weaned peep to 5 to decrease afterload.
   -  consider repeat echo once weaned off IABP
   -  plan for IABP removal today
   .
   # AORTIC STENOSIS
    - Gradient by echo was mean of 20, echo suggested significant AS
   .
   # Thrombocytopenia
 low likelihood for HIT based on timing and current
   stability of plt count, no evidence of thrombosis. Stable.
   - continue to follow
   .
   #. ATRIAL FIBRILLATION
    - Presently in sinus
    - Discontinued amio
    - Anticoagulation at present with heparin going forward for now
   # RESPIRATORY FAILURE [**2-12**] CHF
   - Mechanical ventilation with volume control for now
   - currently on minimal vent settings, will extubate once hemodynamics
   improved
   #. s/p Total Hip
    - Consider orthopaedics to follow while in house
    - Have emailed his [**Last Name (LF) 6131**], [**First Name3 (LF) **] await response.
   #. Anemia: Pt with dropping HCT post-op. Differential diagnosis
   includes hemolysis,  bleed (RP since s/p cath, from hip post op, or GI
   given black NGT drainage)
    -Full anemia work-up
   - f/u hemolysis labs - negative
   - consider scan hip/abd/pelvis when more stable, off IABP
   #. PPX: Lansoprazole daily Bowel regimen, heparin gtt
   #. FEN : NPO for now, lyte repletion as needed.
   #. Access: Fem PA, PIV, consider a line or central access if
   persistently requiring pressors
   #. Code: Full
   #. Dispo: CCU for now
   Family:
   Close Friend [**Name (NI) **] [**Name (NI) 419**] [**Telephone/Fax (1) 6093**]
   Nephew [**Name (NI) 4546**] [**Name (NI) 6094**] [**Telephone/Fax (1) 6095**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2153-3-14**] 02:00 PM
   PA Catheter - [**2153-3-14**] 02:21 PM
   20 Gauge - [**2153-3-14**] 04:24 PM
   22 Gauge - [**2153-3-14**] 04:26 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute diastolic CHF, severe mitral regurgitation,
   NSTEMI
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3//[**6-19**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2153-3-17**] 08:29 ------

2153-03-17 05:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 IABP LINE - STOP [**2153-3-16**] 12:07 PM
   - IABP weaned and removed.
   - Remained off pressors.
   - HCT did not bump appropriately and BP borderline so tranfused 2nd
   unit.
   - Given lasix 20 IV with PRBC given volume overload. Repeated with 40
   IV since still appeared volume overloaded.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-3-16**] 11:04 PM
   Furosemide (Lasix) - [**2153-3-17**] 02:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-17**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 104 (78 - 104) bpm
   BP: 113/61(73) {80/46(54) - 123/67(79)} mmHg
   RR: 22 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 11 (8 - 16)mmHg
   PAP: (52 mmHg) / (26 mmHg)
   CO/CI (Fick): (6.9 L/min) / (3.1 L/min/m2)
   Mixed Venous O2% Sat: 62 - 65
   Total In:
                                                                  1,459 mL
                                                                    100 mL
   PO:
   TF:
   IVF:
                                                                    699 mL
                                                                    100 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,120 mL
                                                                    985 mL
   Urine:
                                                                  1,120 mL
                                                                    985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    339 mL
                                                                   -885 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 393 (393 - 393) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 12 L/min
   Physical Examination
   Gen: Intubated, sedated, moving LLE, following commands, opening eyes
   HEENT: Pupils pinpoint, sluggishly reactive
   CV: RRR, 3/6 systolic murmur radiating to apex
   Resp: Coarse BS anteriorly
   Abd: Soft. ND.Obese.  No obvious tenderness
   Ext: swan in place. No obvious hematoma
   DP/PT trace to 1+ BL. R>L. 1+ edema BL
   Labs / Radiology
   112 K/uL
   8.8 g/dL
   120 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.0 mEq/L
   50 mg/dL
   109 mEq/L
   140 mEq/L
   28.4 %
   16.9 K/uL
        [image002.jpg]
                             [**2153-3-14**]  09:21 PM
                             [**2153-3-15**]  12:50 AM
                             [**2153-3-15**]  04:02 AM
                             [**2153-3-15**]  04:13 AM
                             [**2153-3-15**]  04:18 PM
                             [**2153-3-16**]  02:17 AM
                             [**2153-3-16**]  02:47 AM
                             [**2153-3-16**]  03:45 PM
                             [**2153-3-16**]  09:52 PM
                             [**2153-3-17**]  04:21 AM
   WBC
   20.2
   19.4
   17.6
   16.9
   Hct
   27.9
   25.3
   23.7
   25.0
   28.4
   Plt
   109
   121
   114
   112
   Cr
   0.8
   0.8
   0.9
   TCO2
   26
   28
   27
   27
   Glucose
   130
   119
   120
   Other labs: PT / PTT / INR:16.4/30.6/1.5, CK / CKMB /
   Troponin-T:2282/144/7.61, ALT / AST:55/374, Alk Phos / T Bili:35/0.8,
   Differential-Neuts:84.7 %, Lymph:10.6 %, Mono:4.4 %, Eos:0.2 %,
   D-dimer:2446 ng/mL, Fibrinogen:422 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.6 g/dL, LDH:911 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   Patient is an 86 y/o male with HTN/Dyslipidema h/o rutured AAA in 02
   who developed post-operative MI with CK 1516 (rising) with likely
   culprit of LCx given precordial/lateral ECG changes and angiographic
   findings. He has significant MR (new/severe) that is likely ischemic in
   nature, resulting in significant heart failure requiring mechanical
   ventilation, IABP now weaned off pressor and IABP support
   .
   #. CAD/NSTEMI:  s/p revascularization with Cypher (DES) stents x 2 to
   LCx
    - Continue [**Last Name (LF) **], [**First Name3 (LF) **]; will restart low dose captopril today for
   afterload reduction
    - Continue statin
   -  Trended CKs
 peak 2964 MB 220 on admission
   .
   #. ACUTE SYSTOLIC CHF/Acute MR: Likely related to ischemic MR plus
   inferior/inferiolateral wall  motion abnormalities. Possible pap muscle
   ischemia. IABP inserted to help with afterload reduction to improve MR,
   and also to increase coronary perfusion pressure through new stents.
   -  Off pressors
   -  Weaned peep to 5 to decrease afterload
 will attempt extubation
   today
   -  Plan for repeat echo next week
   .
   # AORTIC STENOSIS
    - Gradient by echo was mean of 20, echo suggested significant AS
   .
   # Thrombocytopenia
 low likelihood for HIT based on timing and current
   stability of plt count, no evidence of thrombosis. Stable.
   - continue to follow
   .
   #. ATRIAL FIBRILLATION
    - Presently in sinus
    - Discontinued amio
    - Anticoagulation with lovenox
   # RESPIRATORY FAILURE [**2-12**] CHF
   - Mechanical ventilation with volume control for now
   - currently on minimal vent settings, will extubate once hemodynamics
   improved
 PSV trial this am
   #. s/p Total Hip
    - will start anticoagulation/DVT prophy with lovenox
    - Have emailed his [**Last Name (LF) 6131**], [**First Name3 (LF) **] await response.
   #. Anemia: Pt with dropping HCT post-op. Concern for bleed (RP since
   s/p cath, from hip post op, or GI given black NGT drainage)
   - f/u hemolysis labs - negative
   - consider scan hip/abd/pelvis if HCT continues to trend down
   #. PPX: Lansoprazole daily, Bowel regimen
   #. FEN : NPO for now, lyte repletion as needed.
   #. Access: PIV, DC PA line
   #. Code: Full
   #. Dispo: CCU for now
   Family:
   Close Friend [**Name (NI) **] [**Name (NI) 419**] [**Telephone/Fax (1) 6093**]
   Nephew [**Name (NI) 4546**] [**Name (NI) 6094**] [**Telephone/Fax (1) 6095**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2153-3-14**] 02:21 PM
   20 Gauge - [**2153-3-14**] 04:24 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu
   Physical Examination
   as per ccu
   Medical Decision Making
   Critically ill due to acute on chronic systolic and diastolic CHF,
   severe MR, NSTEMI
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/7/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2153-3-18**] 09:05 ------

2153-03-18 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PA cath removed. Episode of Afib/flutter to 120, resolved with 5mg IV
   metoprolol, but SBP dropped to 74. Improved with 250cc bolus. Later had
   SR in 90s and T 100.8 -> given APAP and cultured. S+S eval ordered.
   S: No CP, SOB, or palp.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-3-17**] 08:00 AM
   Furosemide (Lasix) - [**2153-3-17**] 09:54 AM
   Metoprolol - [**2153-3-17**] 07:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-18**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 99 (85 - 110) bpm
   BP: 114/60(73) {76/44(57) - 117/64(75)} mmHg
   RR: 19 (18 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 13 (12 - 14)mmHg
   PAP: (66 mmHg) / (29 mmHg)
   Total In:
                                                                    599 mL
   PO:
   TF:
   IVF:
                                                                    539 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                    255 mL
   Urine:
                                                                  2,595 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,996 mL
                                                                   -255 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 417 (417 - 417) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: 7.49/39/156/28/6
   Ve: 9.1 L/min
   PaO2 / FiO2: 390
   Physical Examination
   Gen: Drowsy, oriented to self only.
   CV: RRR, 3/6 systolic murmur radiating to apex
   Resp: Bronchial BS at L base, rales at R base
   Abd: Soft. NT, ND. NABS.
   Ext: DP/PT trace to 1+ BL. R>L. 1+ edema BL, R>L
   Labs / Radiology
   172 K/uL
   10.2 g/dL
   116 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.5 mEq/L
   52 mg/dL
   108 mEq/L
   143 mEq/L
   29.0 %
   18.5 K/uL
        [image002.jpg]
                             [**2153-3-15**]  04:18 PM
                             [**2153-3-16**]  02:17 AM
                             [**2153-3-16**]  02:47 AM
                             [**2153-3-16**]  03:45 PM
                             [**2153-3-16**]  09:52 PM
                             [**2153-3-17**]  04:21 AM
                             [**2153-3-17**]  06:18 AM
                             [**2153-3-17**]  10:21 AM
                             [**2153-3-17**]  06:09 PM
                             [**2153-3-18**]  05:16 AM
   WBC
   19.4
   17.6
   16.9
   18.5
   Hct
   25.3
   23.7
   25.0
   28.4
   28.2
   29.0
   Plt
   121
   114
   112
   172
   Cr
   0.8
   0.9
   0.9
   0.9
   TCO2
   27
   26
   31
   Glucose
   119
   120
   108
   116
   Other labs: PT / PTT / INR:16.4/30.6/1.5, CK / CKMB /
   Troponin-T:2282/144/7.61, ALT / AST:55/374, Alk Phos / T Bili:35/0.8,
   Differential-Neuts:84.7 %, Lymph:10.6 %, Mono:4.4 %, Eos:0.2 %,
   D-dimer:2446 ng/mL, Fibrinogen:422 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.6 g/dL, LDH:911 IU/L, Ca++:9.6 mg/dL, Mg++:2.5 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   Patient is an 86 y/o male with HTN/Dyslipidema h/o rutured AAA in 02
   who developed post-operative MI with CK 1516 (rising) with likely
   culprit of LCx given precordial/lateral ECG changes and angiographic
   findings. He has significant MR (new/severe) that is likely ischemic in
   nature, resulting in significant heart failure requiring mechanical
   ventilation, IABP now weaned off pressor and IABP support.
   .
   #. CAD/NSTEMI:  s/p revascularization with Cypher (DES) stents x 2 to
   LCx.  Has remained chest pain free.
    - Continue [**Last Name (LF) **], [**First Name3 (LF) **]
   - Change captopril to long acting ACE
    - Continue statin
   -  Trended CKs
 peak 2964 MB 220 on admission
   - Titrate beta blocker as tolerated
   .
   # Fever: Rectal temperature 100.8, increased WBC count and patient with
   altered mental status.
   - Check CXR - ? retrocardiac opacity on CXR, will empirically start
   Levoflox to treat possible infection.
   - Check UA/Ucx.
   - dc foley
   .
   # AMS/delirium: Yesterday was attributed to sedative meds, but now 24
   hrs later patient remains sedated with decreased responsiveness.
   - Check CT head.
   - Formal neuro exam
   - Continue work up of metabolic, infectious causes of delirium.
   - Pain control with Tylenol for s/p hip repair.  Would avoid narcotics.
   .
   #. ACUTE SYSTOLIC CHF/Acute MR: Likely related to ischemic MR plus
   inferior/inferiolateral wall  motion abnormalities. Possible pap muscle
   ischemia. IABP inserted to help with afterload reduction to improve MR,
   and also to increase coronary perfusion pressure through new stents.
   -  Off pressors
   -  Plan for repeat echo next week
   - Begin to gently diurese.
   .
   # AORTIC STENOSIS
    - Gradient by echo was mean of 20, echo suggested significant AS
   .
   # Thrombocytopenia
 low likelihood for HIT based on timing and current
   stability of plt count, no evidence of thrombosis. Stable.
   - continue to follow
   .
   #. ATRIAL FIBRILLATION
    - Presently in sinus
    - Discontinued amio
    - Anticoagulation with lovenox
   # RESPIRATORY FAILURE [**2-12**] CHF
   - Extubated on [**3-17**], doing well
   #. s/p Total Hip
    - continue anticoagulation/DVT prophy with lovenox
    - Have emailed his [**Last Name (LF) 6131**], [**First Name3 (LF) **] await response.
   #. Anemia: Pt with dropping HCT post-op. Concern for bleed (RP since
   s/p cath, from hip post op, or GI given black NGT drainage).  Hct
   stable.
   - f/u hemolysis labs - negative
   - consider scan hip/abd/pelvis if HCT continues to trend down
   #. PPX: Lansoprazole daily, Bowel regimen
   #. FEN : NPO for now, lyte repletion as needed.
   - Consider NGT, speech and swallow ordered for tomorrow.
   #. Access: PIV, DC PA line
   #. Code: Full
   #. Dispo: CCU for now
   Family:
   Close Friend [**Name (NI) **] [**Name (NI) 419**] [**Telephone/Fax (1) 6093**]
   Nephew [**Name (NI) 4546**] [**Name (NI) 6094**] [**Telephone/Fax (1) 6095**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-3-18**] 05:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to non-ST elevation MI, severe mitral regurgitation.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/8/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2153-3-18**] 13:13 ------

2153-03-19 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -started levofloxacin for UTI
   -diuresed 1L neg
   -? mental status, CT head -could be NPH or possibly just related to
   age-related changes if correlated clinically, friends say at baseline
   just weak
   -started lisinopril
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-19**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.5
C (97.7
   HR: 104 (87 - 106) bpm
   BP: 109/65(75) {86/45(57) - 117/68(78)} mmHg
   RR: 19 (19 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
             250 mL
   PO:
             TF:
   IVF:
   250 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    200 mL
   Urine:
                                                                  1,370 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,370 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   Gen: chronically ill appearing, laying on side
   HEENT: MM dry
   CV: [**3-16**] blowing holosystolic murmur radiating to apex
   Resp: exp wheezes. Bibasilar rales
   Ext: 1+ edema RLE. L hip dsg CDI
   Neuro: Alery awake, not oriented to place, time. Oriented to self. MAE
   Labs / Radiology
   218 K/uL
   9.0 g/dL
   120 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   52 mg/dL
   110 mEq/L
   148 mEq/L
   26.9 %
   17.0 K/uL
        [image002.jpg]
                             [**2153-3-16**]  02:47 AM
                             [**2153-3-16**]  03:45 PM
                             [**2153-3-16**]  09:52 PM
                             [**2153-3-17**]  04:21 AM
                             [**2153-3-17**]  06:18 AM
                             [**2153-3-17**]  10:21 AM
                             [**2153-3-17**]  06:09 PM
                             [**2153-3-18**]  05:16 AM
                             [**2153-3-18**]  04:41 PM
                             [**2153-3-19**]  04:33 AM
   WBC
   17.6
   16.9
   18.5
   17.0
   Hct
   23.7
   25.0
   28.4
   28.2
   29.0
   26.9
   Plt
   114
   112
   172
   218
   Cr
   0.8
   0.9
   0.9
   0.9
   0.8
   TCO2
   26
   31
   Glucose
   119
   120
   108
   116
   120
   Other labs: PT / PTT / INR:16.4/30.6/1.5, CK / CKMB /
   Troponin-T:2282/144/7.61, ALT / AST:55/374, Alk Phos / T Bili:35/0.8,
   Differential-Neuts:84.7 %, Lymph:10.6 %, Mono:4.4 %, Eos:0.2 %,
   D-dimer:2446 ng/mL, Fibrinogen:422 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.6 g/dL, LDH:911 IU/L, Ca++:9.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   86 y/o male with HTN/Dyslipidema h/o rutured AAA in 02 who developed
   post-operative MI with CK 1516 (rising) with likely culprit of LCx
   given precordial/lateral ECG changes and angiographic findings. He has
   significant MR (new/severe) that is likely ischemic in nature,
   resulting in significant heart failure requiring mechanical
   ventilation, IABP now weaned off pressor and IABP support.
   .
   1. CAD/NSTEMI:  s/p revascularization with Cypher (DES) stents x 2 to
   LCx with peak CK 2964 MB 220.  Has remained chest pain free.
    - Continue [**Last Name (LF) **], [**First Name3 (LF) **], lisinopril, beta blocker, and statin
   2. Fever:
   Rectal temperature 100.8, increased WBC count and patient with altered
   mental status. Etiology is unclear, differential includes pneumonia
   with ? retrocardiac opacity on CXR.
   - continue levofloxacin for now
   - follow-up cultures
   .
   3. AMS/delirium: Yesterday was attributed to sedative meds and has now
   improved.  Likely worsened with possible pneumonia.
   - continue to treat infection
   - hold further sedating meds
   - Pain control with Tylenol for s/p hip repair.  Would avoid narcotics.
   4. ACUTE SYSTOLIC CHF/Acute MR: Likely related to ischemic MR plus
   inferior/inferiolateral wall  motion abnormalities. Possible pap muscle
   ischemia. IABP inserted to help with afterload reduction to improve MR,
   and also to increase coronary perfusion pressure through new stents.
   -  repeat echocardiogram today
   - aim to keep even
   5. AORTIC STENOSIS
    - Gradient by echo was mean of 20, echo suggested significant AS
   .
   6. Thrombocytopenia
 low likelihood for HIT based on timing and
   current stability of plt count, no evidence of thrombosis. Stable.
   - continue to follow
   .
   7. ATRIAL FIBRILLATION
    - Presently in sinus
   - Anticoagulation with lovenox
   8. RESPIRATORY FAILURE [**2-12**] CHF
   - Extubated on [**3-17**], doing well
   9. s/p Total Hip
    - continue anticoagulation/DVT prophy with lovenox
    - will follow-up with primary orthopedic surgery team regarding
   anticoagulation
   10. Anemia: Pt with dropping HCT post-op. Concern for bleed (RP since
   s/p cath, from hip post op, or GI given black NGT drainage).  Hct
   stable.
   - consider scan hip/abd/pelvis if HCT continues to trend down
   #. PPX: Lansoprazole daily, Bowel regimen
   #. FEN : NPO for now, lyte repletion as needed.
   - speech and swallow today
   #. Access: PIV
   #. Code: Full
   #. Dispo: CCU for now
   -          PT and OT consults
   Family:
   Close Friend [**Name (NI) **] [**Name (NI) 419**] [**Telephone/Fax (1) 6093**]
   Nephew [**Name (NI) 4546**] [**Name (NI) 6094**] [**Telephone/Fax (1) 6095**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-3-18**] 05:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to acute on chronic diastolic and systolic CHF,
   NSTEMI, severe mitral regurgitation.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/9/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2153-3-19**] 13:25 ------